US06919331B2
To a slurry of 2-amino-N-cyclopropyl-benzamide (6.7 g, 38.1 mmol) in water was added KHCO3 (9.5 g, 95.1 mmol) followed by careful addition of methylchloroformate (5.88 ml, 76.2 mmol). The mixture was stirred for 12 h then the aqueous layer was extracted with EtOAc. The EtOAc extract was washed with 1N HCl then dried over MgSO4 and concentrated to give 8.9 g (99%) of (2-cyclopropylcarbamoyl-phenyl)-carbamic acid methyl ester.

reactant | 2-amino-N-cyclopropyl-benzamide | 38.1 mmol, 6.7 g | NC1=C(C(=O)NC2CC2)C=CC=C1 | C10H12N2O
reactant | methylchloroformate | 76.2 mmol, 5.88 ml | COC(=O)Cl | C2H3ClO2
solvent | water | O | H2O
product | (2-cyclopropylcarbamoyl-phenyl)-carbamic acid methyl ester | 8.9 g, 99% | COC(NC1=C(C=CC=C1)C(NC1CC1)=O)=O | C12H14N2O3
